US05672584
Asp(OBzl)-OTce (10):
The t-Boc group of 1 g (2.2 mmol) of Boc-Asp(OBzl)-OTce is deprotected using 50 ml of 50% TFA in DCM, and the reaction mixture is stirred for 45 minutes. Volatile compounds in the reaction mixture are removed by rotary evaporator under vacuum.

reactant | Boc-Asp(OBzl)-OTce | 2.2 mmol, 1 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)OCC(Cl)(Cl)Cl)C(=O)OC(C)(C)C | C18H22Cl3NO6
reactant | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Asp(OBzl)-OTce | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)OCC(Cl)(Cl)Cl | C13H14Cl3NO4
